US08242133B2
A mixture of 0.28 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.27 g of potassium carbonate and 3 ml of butanol was stirred while heating at 100° C. for six hours. To the mixture, 0.14 g of potassium carbonate was added, and the reaction mixture was stirred while heating at 100° C. for further four hours. The reaction mixture was cooled to room temperature, and then water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.24 g of 2-(3-butoxypyridin-4-yl)-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 72”).

reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
reactant | potassium carbonate | 0.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | butanol | 3 ml | C(CCC)O | C4H10O
reactant | potassium carbonate | 0.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 2-(3-butoxypyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.24 g | C(CCC)OC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C17H15F3N2O2
